US04321372
The acids of Examples 26 to 37 are also prepared by hydrogenolysis of the corresponding benzyl esters, by adaptation of the following specific exemplary method. Benzyl 6,6-dimethyl-4,5,6,7-tetrahydrobenzthiazol-2-ylcarbamoylcarboxylate (1 g.) in 25 ml. of 50:50 water:ethanol in the presence of 5% palladium on carbon (300 mg.) is hydrogenated at atmospheric pressure and room temperature until uptake of hydrogen is complete (in small excess of one equivalent to account for reduction of the catalyst). The catalyst is removed by filtration and the filtrate evaporated to dryness to yield 6,6-dimethyl-4,5,6,7-tetrahydrobenzthiazol-2-ylcarbamoylcarboxylic acid.

reactant | Benzyl 6,6-dimethyl-4,5,6,7-tetrahydrobenzthiazol-2-ylcarbamoylcarboxylate | 1 g | CC1(CC2=C(N=C(S2)NC(=O)C(=O)OCC2=CC=CC=C2)CC1)C | C18H20N2O3S
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 6,6-dimethyl-4,5,6,7-tetrahydrobenzthiazol-2-ylcarbamoylcarboxylic acid | CC1(CC2=C(N=C(S2)NC(=O)C(=O)O)CC1)C | C11H14N2O3S
